data/mechanism_extracts/AdvSynthCatal/10.1002_adsc.202401108_sup_1.json
{"doi": "10.1002_adsc.202401108_sup_1", "journal": "AdvSynthCatal", "is_review": false, "rxn_class_summary": "Electrochemical iodo-trifluoroethoxylation of terminal alkenes using an aryl iodide as iodine source and TFE as nucleophile/solvent", "mechanism_family": ["radical_anodic", "radical_polar_crossover"], "electrochemical_role": "Anodic oxidation of the aryl iodide (2-iodo-1,3-dimethoxy-5-methylbenzene) generates an electrophilic/radical iodine species that adds across the alkene; TFE then traps the resulting cation/intermediate", "key_intermediates": [{"name": "aryl iodide-derived I-centered radical or iodonium", "smiles": null, "role": "reactive"}, {"name": "β-iodo carbon radical or iodiranium ion from alkene", "smiles": null, "role": "transient"}, {"name": "TFE-trapped β-iodo ether product 3a", "smiles": null, "role": "reactive"}], "electron_flow": "Anode oxidizes the electron-rich aryl iodide to release an electrophilic iodine equivalent that adds to the alkene; TFE acts as the oxygen nucleophile to capture the resulting cationic/radical intermediate and deliver the β-iodo trifluoroethyl ether.", "rate_determining_step": null, "probe_reagents": [{"name": "BHT", "smiles": "CC(C)(C)c1cc(C)cc(C(C)(C)C)c1O", "purpose": "radical_trap", "observation": "Under standard electrolysis with 2.5 equiv BHT, yield of 3a dropped to 19% and 73% of alkene 2a was recovered, consistent with a radical intermediate"}, {"name": "N-iodosuccinimide (NIS)", "smiles": "O=C1CCC(=O)N1I", "purpose": "intermediate_trap", "observation": "Replacing the aryl iodide with NIS under non-electrochemical conditions (DCM/TFE, rt, 25 h, no current) gave 3a in 58% yield (2:1), supporting that an electrophilic I+ source can drive the iodo-etherification independent of electricity"}], "evidence_types_used": ["intermediate_trap_BHT", "intermediate_trap_other"], "evidence_strength": "medium", "notes": "The NIS control suggests an I+ / iodiranium (ionic) pathway is viable, while BHT suppression supports a radical component — consistent with a radical/polar crossover mechanism in which anodic oxidation of ArI generates an iodine radical that adds to the alkene, followed by oxidation to a cation trapped by TFE."}
